US08383637B2
N-{2-[2-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yl)-phenyl]-ethyl}-benzenesulfonamide
Cyanogen bromide (0.00034 mol) was added to a mixture of N-[2-(4′-amino-3′-propylaminomethyl-biphenyl-2-yl)-ethyl]-benzenesulfonamide (0.00031 mol) in ethanol (1 mL) in a Fast-tube, and then the reaction mixture was stirred overnight at room temperature. The solvent was evaporated and the residue was purified by high-performance liquid chromatography. The purest product fractions were collected and the solvent was evaporated to yield the title compound as a residue.

reactant | Cyanogen bromide | 0.00034 mol | N#CBr | CBrN
reactant | N-[2-(4′-amino-3′-propylaminomethyl-biphenyl-2-yl)-ethyl]-benzenesulfonamide | 0.00031 mol | NC1=C(C=C(C=C1)C1=C(C=CC=C1)CCNS(=O)(=O)C1=CC=CC=C1)CNCCC | C24H29N3O2S
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | N-{2-[2-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yl)-phenyl]-ethyl}-benzenesulfonamide | NC1=NC2=CC=C(C=C2CN1CCC)C1=C(C=CC=C1)CCNS(=O)(=O)C1=CC=CC=C1 | C25H28N4O2S
